US07589116B2
A solution of 3-bromophenylhydrazine hydrochloride (0.5 g, 2.2 mmol) and ethyl 5,5-dimethyl-2,4-dioxohexanoate (0.54 g, 2.68 mmol) in acetic acid (10 ml) was refluxed for 16 hours. The reaction was cooled to room temperature, and the solvent was removed under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was washed with water, saturated bicarbonate and brine, and dried over sodium sulfate, filtered and concentrated. The crude material was purified by column chromatography (4.8:0.2 hexanes/ethyl acetate) to give ethyl 1-(3-bromophenyl)-5-tert-butyl-1H-pyrazole-3-carboxylate (0.59 g, 74%) as a syrup.

reactant | 3-bromophenylhydrazine hydrochloride | 2.2 mmol, 0.5 g | Cl.BrC=1C=C(C=CC1)NN
reactant | ethyl 5,5-dimethyl-2,4-dioxohexanoate | 2.68 mmol, 0.54 g | CC(C(CC(C(=O)OCC)=O)=O)(C)C | C10H16O4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | ethyl 1-(3-bromophenyl)-5-tert-butyl-1H-pyrazole-3-carboxylate | 0.59 g, 74% | BrC=1C=C(C=CC1)N1N=C(C=C1C(C)(C)C)C(=O)OCC | C16H19BrN2O2
